US06498185B1
To a solution of N-phenyl-2-[((3-chlorobenzo[b]thien-2-yl)carbonyl)amino]4,5-dihydroxybenzamide (0.09 g, 0.21 mmol) in CH2Cl2 (1 mL) and pyridine (1 mL) at 0° C. was added trimethylacetyl chloride (0.027 mL, 0.22 mmol). The solution was allowed to warm to ambient temperature with stirring. After 16 hours, the reaction mixture was partitioned between ethyl acetate and dilute HCl. The organic layer was dried over Na2SO4 and concentrated in vacuo. The resulting oil was purified by flash chromatography on silica gel to afford 0.038 g (40% yield) of N-phenyl-2-[((3-chlorobenzo b]thien-2-yl)carbonyl)amino]-5-hydroxy4-((1,1-dimethylethyl)carbonyl)oxybenzamide as a white solid; NMR(DMSO-d6) 12.2 (s, 1), 10.8 (s, 1), 10.4 (s, 1), 8.3 (s, 1), 8.2 (d, 1), 8.0 (d, 1), 7.6-7.7 (m, 4), 7.4 (t, 2), 7.1 (t, 1), 1.3 (s, 9) ppm.

reactant | N-phenyl-2-[((3-chlorobenzo[b]thien-2-yl)carbonyl)amino]4,5-dihydroxybenzamide | 0.21 mmol, 0.09 g | C1(=CC=CC=C1)NC(C1=C(C=C(C(=C1)O)O)NC(=O)C1=C(C2=C(S1)C=CC=C2)Cl)=O | C22H15ClN2O4S
reactant | trimethylacetyl chloride | 0.22 mmol, 0.027 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 5-hydroxy4-((1,1-dimethylethyl)carbonyl)oxybenzamide | OC=1C(=CC=C(C(=O)N)C1)OC(=O)C(C)(C)C | C12H15NO4
